US07250410B2
8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIda.
By replacing in the example 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one (XXIIaa) by 8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIam), and ethylene carbonate by iodomethane, and proceeding in the same manner, the abovenamed product is obtained. Yield: 69%. M: 138–140° C. 1H-NMR (CDCl3, 200 MHz): d 1.54 (t, 3H, CH3), 3.38 (s, 3H, NCH3), 3.74 (s, 3H, OCH3), 4.18 (q, 2H, —OCH2), 4.29 (AB system, ? d=0.98, JAB=10.5, 2H, —CH2), 6.70 (s, 1H Ar), 6.77 (s, 1H Ar), 7.39–7.43 (m, 3H Ar), 7.63–7.68 (m, 3H Ar).

reactant | 7,8-dimethoxy-5-phenyl-1,3-dihydro-1,4-benzodiazepin-2-one | COC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OC | C17H16N2O3
reactant | 8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C)OC1=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C=C1OC | C18H18N2O3
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
reactant | iodomethane | IC | CH3I
product | 8-ethoxy-7-methoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 69% | C(C)OC1=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C=C1OC | C19H20N2O3
